US07691882B2
(6-Benzyloxy-pyridin-3-yl)-methanol
To a methanol (20.0 mL) solution of 6-benzyloxy-pyridine-3-carbaldehyde (2.00 g, 9.38 mmol) described in Manufacturing Example 12-1-2 was added sodium borohydride (426 mg, 11.3 mmol) on an ice bath (0° C.) under nitrogen atmosphere, which was stirred for 10 minutes at room temperature. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure to obtain the title compound (1.84 g, 91.1%).

reactant | methanol | 20.0 mL | CO | CH4O
reactant | 6-benzyloxy-pyridine-3-carbaldehyde | 9.38 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C=O | C13H11NO2
reactant | sodium borohydride | 11.3 mmol, 426 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | (6-Benzyloxy-pyridin-3-yl)-methanol | 1.84 g, 91.1% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CO | C13H13NO2
